US03947470
A mixture of 19.4 g. (0.1 mol.) of 2-phenylbenzofuran and 19.1 g. (0.1 mol.) of 4-acetoxy-3-methoxybenzonitrile in 20 ml. of trifluoroacetic acid is refluxed for 3 hours. The reaction mixture is cooled, diluted with 200 ml. of water and the resulting aqueous solution is extracted with ether. The extracts are concentrated to dryness and the residue is dissolved in 100 ml. of ethanol and heated with 20 ml. of 10% aqueous sodium carbonate for 2 hours. The mixture is concentrated, the residue extracted with ether and the extracts are dried and concentrated to give 3-(3-methoxy-4-hydroxybenzoyl)-2-phenylbenzofuran.

reactant | 2-phenylbenzofuran | 0.1 mol | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | 4-acetoxy-3-methoxybenzonitrile | 0.1 mol | C(C)(=O)OC1=C(C=C(C#N)C=C1)OC | C10H9NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(3-methoxy-4-hydroxybenzoyl)-2-phenylbenzofuran | COC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1O | C22H16O4
